US05026879
Four solutions were prepared by dissolving 11.8 g (0.10 mol) of 2-pentylpropane-1,3-diol (prepared in Example 1 following the procedures of Steps 1-2), 14.2 g (0.10 mol) of 3,4-difluorobenzaldehyde, and 0.9 g (0.005 mol) of p-toluenesulfonic acid in methylene chloride (b.p. 40° C.), chloroform (b.p. 60° C.), benzene (b.p. 80° C.) and toluene (b.p. 111° C.), respectively. The solutions were treated following the procedures of Step 3 of Example 1 to yield mixtures of the cis and trans isomers of 5-pentyl-2-(3',4'-difluorophenyl)-1,3-dioxane. The yields of each mixture from its respective solvent and the ratio of the trans isomer to the cis isomer of each mixture are shown in Table 1.

reactant | 2-pentylpropane-1,3-diol | 0.10 mol, 11.8 g | C(CCCC)C(CO)CO | C8H18O2
reactant | 3,4-difluorobenzaldehyde | 0.10 mol, 14.2 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | p-toluenesulfonic acid | 0.005 mol, 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-pentyl-2-(3',4'-difluorophenyl)-1,3-dioxane | C(CCCC)C1COC(OC1)C1=CC(=C(C=C1)F)F | C15H20F2O2
